US04642313
7.6 g of N-(3,4-dichlorobenzoyl)-(3-furylcarbonyl)methylamine, 1.2 g of 61% sodium hydride and 4.7 g of ethyl bromoacetate are treated in the same manner as described in Preparation 1-(2). 9.0 g of ethyl 3-(3,4-dichlorobenzoylamino)-3-(3-furylcarbonyl)propionate are thereby obtained. Yield: 91.9%

reactant | N-(3,4-dichlorobenzoyl)-(3-furylcarbonyl)methylamine | 7.6 g | ClC=1C=C(C(=O)NCC(=O)C2=COC=C2)C=CC1Cl | C13H9Cl2NO3
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | ethyl bromoacetate | 4.7 g | BrCC(=O)OCC | C4H7BrO2
product | ethyl 3-(3,4-dichlorobenzoylamino)-3-(3-furylcarbonyl)propionate | 9.0 g, Yield: 91.9% | ClC=1C=C(C(=O)NC(CC(=O)OCC)C(=O)C2=COC=C2)C=CC1Cl | C17H15Cl2NO5
